US04359332
To a solution of pentafluorophenylhydrazine (3.96 g, 0.02 mole) in 40 ml. of tetrahydrofuran at 0° C. was added over 1/2 hour ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (1.65 g, 0.005 mole) in 40 ml. of tetrahydrofuran. The reaction mixture was allowed to warm to room temperature and stir for 2 hours, then filtered. The filtrate was washed with water, dried, and concentrated in vacuo to yield a dark red-brown solid. This solid was washed several times with 70% ether in petroleum ether to yield ethyl N-trifluoroacetyl-N-(bis(pentafluorophenylhydrazino)phosphonomethyl)glycinate, m.p. 100°-110° C.

reactant | pentafluorophenylhydrazine | 0.02 mole, 3.96 g | FC1=C(C(=C(C(=C1NN)F)F)F)F | C6H3F5N2
reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.005 mole, 1.65 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl N-trifluoroacetyl-N-(bis(pentafluorophenylhydrazino)phosphonomethyl)glycinate | FC(C(=O)N(CC(=O)OCC)CP(=O)(ONNC1=C(C(=C(C(=C1F)F)F)F)F)ONNC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C19H13F13N5O6P
